### ISSUE TITLE
VM crash while printing tactic state

### ISSUE THREAD

**Issue by digama0** [leanprover-community/lean#673]
MWE:
```lean
def foo (n : ℕ) : ℕ → unit
| k :=
  if n < k then () else
  have n - (k + 1) < n - k, from sorry,
  have n - (k + 1) < n - k, from this,
  foo (k + 1)
using_well_founded {rel_tac := λ _ _, `[exact ⟨_, measure_wf (λ k, n - k)⟩]}

example {n k : ℕ} : foo n k = () :=
begin
  rw foo,
  -- Tactic state
  -- vm check failed: i < get_casesn_size() (possibly due to incorrect axioms, or sorry)
  sorry
end
```

**Comment by digama0** [comment]
Another example by @ericrbg :
```
def {u} T : Type u → Type u := sorry
instance : ∀ {α} [decidable_eq α], has_union (T α) := sorry

noncomputable def my_union {α : Type*} (x y : T α) :=
have _ := λ x y : α, classical.prop_decidable (x = y), by exactI x ∪ y

lemma asd {α : Type*} (x y : T α) [decidable_eq α] : my_union x y = x ∪ y :=
begin
  rw my_union,
  -- Tactic state
  -- vm check failed: i < get_casesn_size() (possibly due to incorrect axioms, or sorry)
  sorry
end
```
